US08604015B2
Oxalyl dichloride (141 μl, 1.67 mmol) was added dropwise to a solution of 1-methylpiperidine-4-carboxylic acid hydrochloride (300 mg, 1.67 mmol) in DCM (20 ml) and few drops of DMF (catalytic amount). The reaction was stirred at room temperature for 2 hours. The volatiles were removed under vacuum, and the crude was taken up with pyridine (20 ml). 1,2-Diphenylethanol (331 mg, 1.67 mmol) was added, and the resulting suspension was heated under microwave irradiation at 140° C. for 1 hour. Pyridine was removed under vacuum, and the crude was purified by flash chromatography (DCM/MeOH=97/3 to 94/6) to obtain 1,2-diphenylethyl 1-methylpiperidine-4-carboxylate (200 mg).

reactant | Oxalyl dichloride | 1.67 mmol, 141 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-methylpiperidine-4-carboxylic acid hydrochloride | 1.67 mmol, 300 mg | Cl.CN1CCC(CC1)C(=O)O
reactant | DMF | CN(C)C=O | C3H7NO
reactant | 1,2-Diphenylethanol | 1.67 mmol, 331 mg | C1(=CC=CC=C1)C(CC1=CC=CC=C1)O | C14H14O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1,2-diphenylethyl 1-methylpiperidine-4-carboxylate | 200 mg | CN1CCC(CC1)C(=O)OC(CC1=CC=CC=C1)C1=CC=CC=C1 | C21H25NO2
